US06274286B1
tris(2-methoxymethoxyethyl)amine
To a suspension of 270.6 grams of potassium t-butoxide in 1,800 ml of tetrahydrofuran, 100.0 grams of triethanolamine in 200 ml of tetrahydrofuran was added dropwise over 10 minutes while stirring under ice cooling. After 40 minutes of stirring, 194.5 grams of chloromethyl methyl ether was added dropwise over 30 minutes while continuing stirring under ice cooling. After 30 minutes of stirring, 75.2 grams of potassium t-butoxide was added while continuing stirring under ice cooling. After 20 minutes of stirring, 54.0 grams of chloromethyl methyl ether was added dropwise over 10 minutes while continuing stirring under ice cooling. After 40 minutes of stirring, 500 ml of methanol was added. After 30 minutes of stirring, the reaction solution was filtered with a sufficient amount of Celite, and the residue was washed with ether. The filtrate was concentrated under vacuum, and the resulting oily matter was distilled under vacuum. On analysis by 1H-NMR, the thus collected oily matter was found to be tris(2-methoxymethoxyethyl)amine, designated Amine 1. Amount 139.9 grams, yield 74.2%.

reactant | potassium t-butoxide | 270.6 grams | CC(C)([O-])C.[K+]
reactant | triethanolamine | 100.0 grams | N(CCO)(CCO)CCO | C6H15NO3
reactant | chloromethyl methyl ether | 194.5 grams | COCCl | C2H5ClO
reactant | potassium t-butoxide | 75.2 grams | CC(C)([O-])C.[K+]
reactant | chloromethyl methyl ether | 54.0 grams | COCCl | C2H5ClO
reactant | methanol | 500 ml | CO | CH4O
reactant | tetrahydrofuran | 1,800 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | tris(2-methoxymethoxyethyl)amine | yield 74.2% | COCOCCN(CCOCOC)CCOCOC | C12H27NO6
